* source CARRITO
R_R22         5V RELE_ACEL  1k  
R_R29         5V N130885  1k  
M_M2         DC2 N110157 24V 24V IRF9620
X_U9         PAP_4 N115988 GND_SIGNAL RFP30N06LE/HA
R_R38         15V N115754  1k  
C_C19         GND 5V  100n  
R_R33         N130755 5V  1k  
X_U5D         N600796 N600286 5V GND ENCODER_TRACCION LM324/NS
X_U5B         N110339 ENCO_MOTOR2 5V GND N110343 LM324/NS
R_R45         24VS N540286  1k  
X_U24         DC3 N537594 GND_EARTH RFP30N06LE/HA
X_U11A         PWM_PAP N115964 N116016 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R52         GND N130533  1k  
R_R24         5V SENTIDO  1k  
R_R6         REF2_5 N110249  10k  
X_U14C         N130755 VREF 24VS GND VREF LM324/NS
R_R39         N115770 15V  1k  
R_R27         N600286 N600453  100  
R_R28         GND VOUT1  2k  
R_R35         N130533 N130549  1k  
R_R7         N110249 N110253  1M  
R_R36         GND N130755  1k  
C_C20         GND 5V  100n  
R_R47         5V CAR0  1k  
C_C25         GND N600453  100n  
R_R13         GND PAP0  1k  
X_U3         DC1 N110197 GND_EARTH RFP30N06LE/HA
R_R5         N110437 5V  2.3k  
C_C21         GND 5V  100n  
R_R1         N110907 24VS  330  
M_M9         N129823 N130885 GND GND IRF530
R_R18         GND PAP1  1k  
R_R53         5V ENCODER_1  1k  
R_R23         N130275 36V  1k  
R_R31         N130751 VOUT1  30k  
R_R8         GND N110437  2.3k  
R_R32         GND N130739  1k  
R_R48         5V CAR1  1k  
C_C22         GND 5V  100n  
C_C26         GND 24VS  1u  
R_R30         VOUT2 N130739  1k  
R_R3         N110157 24VS  330  
X_U14A         N129819 N130751 24VS GND VOUT1 LM324/NS
R_R55         ENCODER_TRACCION N600796  1M  
R_R2         GND DC_0  1k  
R_R20         N48231 N48381  1K  
R_R25         N129823 36V  1k  
M_M6         PAP_1 N115754 12V 12V IRF9620
R_R41         15V N116326  1k  
C_C23         GND 5V  100n  
X_U14B         N130739 N130533 24VS GND N130549 LM324/NS
R_R26         VOUT1 N130739  1k  
R_R57         GND N130751  10k  
R_R49         5V CAR2  1k  
R_R56         N600796 REF2_5  10k  
R_R34         N130059 24VS  11.7k  
M_M3         PAP_2 N115770 12V 12V IRF9620
R_R21         N129783 36V  1k  
M_M7         N129783 RELE_ACEL GND GND IRF530
C_C7         GND_EARTH 24V  100n  
R_R4         GND DC_1  1k  
R_R19         5V N48231  10K  
C_C17         GND 5V  100n  
M_M22         DC3 N540286 24V 24V IRF9620
X_U7         PAP_1 N115778 GND_SIGNAL RFP30N06LE/HA
R_R12         N1167861 PAP0  4.7k  
R_R14         GND PAP2  1k  
X_U5A         N110249 ENCO_MOTOR1 5V GND N110253 LM324/NS
R_R50         5V CAR3  1k  
R_R54         5V ENCODER_2  1k  
R_R37         GND N130059  8.3k  
R_R42         GND N578609  1k  
R_R16         N116962 PAP1  4.7k  
D_D13         N48231 5V D1N4148_1 
M_M8         N130275 SENTIDO GND GND IRF530
X_U1A         DC_0 PWM_DC N110843 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5C         N110437 REF2_5 5V GND REF2_5 LM324/NS
X_U10         PAP_2 N115758 GND_SIGNAL RFP30N06LE/HA
R_R17         GND PAP3  1k  
R_R51         5V CAR4  1k  
C_C18         GND 5V  100n  
R_R40         15V N116648  1k  
X_U1B         PWM_DC DC_1 N110197 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R46         GND DC_2  1k  
X_U1D         N1167861 PWM_PAP N115758 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R11         N1158721 PAP2  4.7k  
R_R43         N578609 24VS  18.2k  
X_U14D         N130059 VOUT2 24VS GND VOUT2 LM324/NS
R_R9         REF2_5 N110339  10k  
X_U4         DC2 N110843 GND_EARTH RFP30N06LE/HA
M_M4         PAP_3 N116326 12V 12V IRF9620
X_U11D         PWM_DC DC_2 N537594 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U11B         PWM_PAP N116962 N115778 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R15         N115964 PAP3  4.7k  
R_R10         N110339 N110343  1M  
M_M5         PAP_4 N116648 12V 12V IRF9620
R_R44         5V N5629080  1k  
M_M1         DC1 N110907 24V 24V IRF9620
X_U8         PAP_3 N116016 GND_SIGNAL RFP30N06LE/HA
X_U1C         N1158721 PWM_PAP N115988 $G_DPWR $G_DGND 74LS08 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
C_C1         GND 15V  1u  
