* source CARRITO
.EXTERNAL OUTPUT RELE_ACEL
.EXTERNAL OUTPUT DAC0
.EXTERNAL OUTPUT DAC1
.EXTERNAL OUTPUT DAC2
.EXTERNAL OUTPUT DAC3
.EXTERNAL OUTPUT DAC4
.EXTERNAL OUTPUT DAC5
.EXTERNAL OUTPUT DAC6
.EXTERNAL OUTPUT DAC7
.EXTERNAL OUTPUT PWM_DC
.EXTERNAL OUTPUT SENTIDO
.EXTERNAL OUTPUT PWM_PAP
.EXTERNAL OUTPUT DC0
.EXTERNAL OUTPUT DC1
.EXTERNAL OUTPUT PAP0
.EXTERNAL OUTPUT PAP1
.EXTERNAL OUTPUT PAP2
.EXTERNAL OUTPUT PAP3
.EXTERNAL INPUT ENCODER_0
.EXTERNAL INPUT ENCODER_1
C_C7         0 N68145 C
C_C4         N61377 N61579 C
V_V2         5V 0 5Vdc
C_C6         N62219 N63004 C
C_C2         5V 0 22u
D_D1         N48231 5V D10D1 
R_R2         N48231 N48381  1K  
C_C5         N61896 N62001 C
R_R1         5V N48231  10K  
C_C3         N63004 0 C
C_C1         N48231 0 C
V_V1         12V 0 12Vdc
