* source MOTOR
X_U4         12V N05554 N05454 RFP30N06LE/HA
X_U6         12V N18120 N18078 RFP30N06LE/HA
X_U2         N05438 N05554 0 RFP30N06LE/HA
D_D4         0 N05454 D10D1 
X_U7         N18078 N18194 0 RFP30N06LE/HA
X_U5         N05554 N05498 0 RFP30N06LE/HA
X_U15         N27935 N23970 4  $G_DPWR $G_DGND AND2
X_U8         N18096 N18120 0 RFP30N06LE/HA
D_D1         N05438 12V D10D1 
L_L3         N18078 N181501  2.1m  
X_U3         N05454 N05498 0 RFP30N06LE/HA
X_U12         N27935 N19551 1  $G_DPWR $G_DGND AND2
X_U9         12V N18194 N18096 RFP30N06LE/HA
R_R3         N181501 N18096  0.55  
U_DSTM1         STIM(1,0) $G_DPWR $G_DGND N05498 IO_STM STIMULUS=controlL
X_U10         N18194 N18120 0 RFP30N06LE/HA
V_V1         12V 0 12Vdc
U_DSTM2         STIM(1,0) $G_DPWR $G_DGND N18120 IO_STM STIMULUS=ControlH
D_D2         N05454 12V D10D1 
D_D5         N18078 12V D10D1 
X_U14         N27935 N24357 3  $G_DPWR $G_DGND AND2
D_D6         N18096 12V D10D1 
D_D7         0 N18078 D10D1 
R_R2         N05554 VCC  1K  
X_U1         12V N05498 N05438 RFP30N06LE/HA
D_D8         0 N18096 D10D1 
D_D3         0 N05438 D10D1 
R_R4         N18194 VCC  1K  
V_V2         VCC 0 5Vdc
L_L2         N05438 N055181  2.1m  
U_PWM         STIM(1,0) $G_DPWR $G_DGND N27935 IO_STM STIMULUS=
R_R1         N055181 N05454  0.55  
X_U13         N27935 N19928 2  $G_DPWR $G_DGND AND2
