* source SIMULACION
R_R1         0 N00698  100  
L_L1         N00377 N00698  150uH  
M_M1         VCC N05403 N00377 N00377 IRF530
C_C1         0 N00698  2200u  
V_V2         N02430 0  
+PULSE 0 40 1u 0.1u 0.1u 50u 100u
V_V1         VCC 0 36
D_D3         0 N00377 D1N4148 
R_R3         N02430 N05403  1k  
